US08133998B2
To a solution of methyl 3-(2-(3,5-bis(trifluoromethyl)phenylamino)-2-oxoethyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylate, (3.3 g, 6.75 mmol) in THF (30 mL), MeOH (10 mL), and H2O (10 mL) was added lithium hydroxide monohydrate (1.42 g, 33.8 mmol). The reaction mixture was then stirred at RT overnight. The reaction mixture was concentrated, diluted with H2O (30 mL) and washed with DCM (2×30 mL). The aqueous layer was acidified (pH˜2) with 1M HCl and the resultant precipitate was filtered and dried to give 1.9 g of 3-(2-(3,5-bis(trifluoromethyl)phenylamino)-2-oxoethyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylic acid, (yield: 59%).

reactant | methyl 3-(2-(3,5-bis(trifluoromethyl)phenylamino)-2-oxoethyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylate | 6.75 mmol, 3.3 g | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(CN1C=NC2=C(C1=O)C(=C(S2)C(=O)OC)C)=O)(F)F | C19H13F6N3O4S
reactant | H2O | 10 mL | O | H2O
reactant | lithium hydroxide monohydrate | 33.8 mmol, 1.42 g | O.[OH-].[Li+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | MeOH | 10 mL | CO | CH4O
product | 3-(2-(3,5-bis(trifluoromethyl)phenylamino)-2-oxoethyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylic acid | 1.9 g, yield: 59% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(CN1C=NC2=C(C1=O)C(=C(S2)C(=O)O)C)=O)(F)F | C18H11F6N3O4S
